US06172057B2
2-(4-Methoxy-phenylsulfanyl)-heptanoic acid was prepared starting with 2-(4-methoxy-phenylsulfanyl)-heptanoic acid ethyl ester (4 g, 13.5 mmol) dissolved in methanol (300 ml) and 10 N NaOH (25 ml). The resulting reaction mixture was worked up as outlined in example 1. Yield 3 g (83%). yellow oil. MS: 267.1 (M−H)−.

reactant | 2-(4-methoxy-phenylsulfanyl)-heptanoic acid ethyl ester | 13.5 mmol, 4 g | C(C)OC(C(CCCCC)SC1=CC=C(C=C1)OC)=O | C16H24O3S
solvent | methanol | 300 ml | CO | CH4O
solvent | NaOH | 10 N, 25 ml | [OH-].[Na+]
product | 2-(4-Methoxy-phenylsulfanyl)-heptanoic acid | COC1=CC=C(C=C1)SC(C(=O)O)CCCCC | C14H20O3S
